US07423159B2
A mixture of diethyl [2-(bromomethyl)benzyl]phosphonate (11.2 g), potassium phthalimide (6.46 g) and N,N-dimethylformamide (100 ml) was stirred at room temperature for 14 hrs. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was ashed with water, dried over anhydrous magnesium sulfate, and concentrated. Recrystallization of the residue from ethyl acetate-hexane gave diethyl {2-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzyl}phosphonate (11.3 g, 83%) as colorless prism crystals. melting point: 91-92° C.

reactant | diethyl [2-(bromomethyl)benzyl]phosphonate | 11.2 g | BrCC1=C(CP(OCC)(OCC)=O)C=CC=C1 | C12H18BrO3P
reactant | potassium phthalimide | 6.46 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | diethyl {2-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzyl}phosphonate | 11.3 g, 83% | O=C1N(C(C2=CC=CC=C12)=O)CC1=C(CP(OCC)(OCC)=O)C=CC=C1 | C20H22NO5P
